US04713383
A mixture of concentrated aqueous ammonium hydroxide (300 ml) saturated with ammonia gas at 0° and 9-chloro-2-(2-furyl)-5-methylthio[1,2,4]triazolo[1,5-c]quinazoline (5.7 g) in a stainless steel pressure vessel is heated at an outside temperature of 150° over 18 hours, during which time the pressure rises to 250 p.s.i. The reaction mixture is cooled and the solid material collected, washed with water and air dried. The 9-chloro-2-(2-furyl)-5-imino-5,6-dihydro-[1,2,4]triazolo[1,5-c]quinazoline thus obtained (2.9 g, mp 269°-271°) is converted to the methanesulphonate salt by dissolution in 2-methoxyethanol (150 ml) followed by methanesulphonic acid (0.66 ml) and dry ether (25 ml) to afford the pure salt identical to that from Example 32.

reactant | ammonia | N | H3N
reactant | 9-chloro-2-(2-furyl)-5-methylthio[1,2,4]triazolo[1,5-c]quinazoline | 5.7 g | ClC1=CC=2C=3N(C(=NC2C=C1)SC)N=C(N3)C=3OC=CC3 | C14H9ClN4OS
solvent | ammonium hydroxide | 300 ml | [OH-].[NH4+]
product | 9-chloro-2-(2-furyl)-5-imino-5,6-dihydro-[1,2,4]triazolo[1,5-c]quinazoline | ClC1=CC=2C=3N(C(NC2C=C1)=N)N=C(N3)C=3OC=CC3 | C13H8ClN5O
